US07981874B2
[2-(4-Bromomethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester.
4-Bromomethyl-benzoyl bromide (0.70 g, 2.52 mmol) was made 0.21 M in anhydrous DCM and cooled to −78° C. To this stirring solution was added (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester (0.73 g, 2.52 mmol) followed by DIPEA (0.98 g, 7.56 mmol). The resulting solution was warmed to ambient temperature and stirred for 18 hours. The reaction mixture was then diluted with 0.1 N HCl and extracted with EtOAc. The organic layer was then washed with saturated aqueous sodium bicarbonate, brine, dried (MgSO4), and concentrated in vacuo to afford the title compound: 1H NMR (DMSO-d6, 600 MHz) 9.90 (s, 1H), 8.72 (s, 1H), 7.94 (d, J=7.8. Hz, 2H), 7.78-7.80 (m, 1H), 7.57-7.62 (m, 3H), 7.47-7.51 (m, 2H), 7.42-7.44 (m, 1H), 7.09-7.12 (m, 1H), 4.77 (s, 2H), 1.43 (s, 9H).

reactant | 4-Bromomethyl-benzoyl bromide | 2.52 mmol, 0.70 g | BrCC1=CC=C(C(=O)Br)C=C1 | C8H6Br2O
reactant | (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester | 2.52 mmol, 0.73 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)N)=O | C15H18N2O2S
reactant | DIPEA | 7.56 mmol, 0.98 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | HCl | 0.1 N | Cl | ClH
product | [2-(4-Bromomethyl-benzoylamino)-4-thiophen-2-yl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CC=C(C=C1)CBr)=O)=O | C23H23BrN2O3S
